US04017492
In the manner given in Example 13, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine can be stirred with 5-morpholino-2-oxopentanoic acid to give 7-chloro-2-[(1-carboxy-4-morpholinobutylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | 5-morpholino-2-oxopentanoic acid | O1CCN(CC1)CCCC(C(=O)O)=O | C9H15NO4
product | 7-chloro-2-[(1-carboxy-4-morpholinobutylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCCN2CCOCC2)C(=O)O)C2=CC=CC=C2)C1 | C24H26ClN5O3
